US04812164
using 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone with concentrated sulphuric acid during 2 minutes at 0° C. there is obtained 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-fluoro-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone, 1H-NMR (CDCl3, 60 MHz): 7.28 ppm (d,1H), 6.83 ppm (d,1H), 5.10 ppm (s,1H), 4.00 ppm (s,3H);

reactant | 1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5-fluoro-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OC(C)C)N1C(=NC(=C(C1=O)F)C(C(F)(F)F)(F)F)OC)F | C16H12ClF7N2O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-fluoro-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1O)N1C(=NC(=C(C1=O)F)C(C(F)(F)F)(F)F)OC)F | C13H6ClF7N2O3
